US08877780B2
A mixture of 2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindole-5-carbonitrile (9.2 g, 34 mmol), 10% Pd—C (1.7 g) and concentrated HCl (5.3 g) in N-methylpyrrolidone (300 mL) was hydrogenated at 58 psi overnight. The crude reaction mixture was filtered through Celite, and the catalyst washed with water. The combined filtrate was concentrated in vacuo, and the product, 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride, was isolated by fractional crystallization of the residue from isopropanol-water (1.9 g, 18%); 1H NMR (DMSO-d6) δ 1.85-2.20 (m, 1H), 2.35-2.45 (m, 1H), 2.58-2.80 (m, 1H), 2.87-2.99 (m, 1H), 4.16 (s, 2H), 4.35 (d, J=17.5 Hz, 1H), 4.49 (d, J=17.5 Hz, 1H), 5.13 (dd, J=13.2 Hz, J=4.8 Hz, 1H), 7.63 (d, J=7.8 Hz, 1H), 7.72 (s, 1H), 7.79 (d, J=7.8 Hz, 1H), 8.43 (br, 3H), 11.01 (s, 1H).

reactant | 2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindole-5-carbonitrile | 34 mmol, 9.2 g | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)C#N)=O)=O | C14H11N3O3
reactant | HCl | 5.3 g | Cl | ClH
solvent | N-methylpyrrolidone | 300 mL | CN1C(CCC1)=O | C5H9NO
catalyst | Pd—C | 1.7 g | [Pd] | Pd
product | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | InChI=1S/C14H15N3O3.ClH/c15-6-8-1-2-10-9(5-8)7-17(14(10)20)11-3-4-12(18)16-13(11)19;/h1-2,5,11H,3-4,6-7,15H2,(H,16,18,19);1H
